US07176210B2
Preparation of Intermediate 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-ol (I-3A-4a)
To a mixture of 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2H-pyrazol-3-ylamine (I-3A-1b; 3.00 g, 9.86 mmol) in acetic acid (12 ml) was added ethyl acetoacetate (1.63 ml, 12.8 mmol). The reaction was heated at 100° C. for 16 hours. After cooling to room temperature, the precipitated solid was isolated by vacuum filtration and then repulped from diethyl ether to afford I-3A-4a (1.1 g, 30%) as a colorless solid: +ESI MS (M+1) 370.0; 1H NMR (400 MHz, DMSO-d6) δ 12.12 (s, 1H), 7.45–7.33 (m, 6H), 7.13 (d, J=8.7 Hz, 2H), 5.70 (s, 1H), 2.30 (s, 3H).

reactant | 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2H-pyrazol-3-ylamine | 9.86 mmol, 3.00 g | ClC1=C(C=CC=C1)C=1C(=C(NN1)N)C1=CC=C(C=C1)Cl | C15H11Cl2N3
reactant | ethyl acetoacetate | 12.8 mmol, 1.63 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-ol | ClC1=CC=C(C=C1)C=1C(=NN2C1N=C(C=C2O)C)C2=C(C=CC=C2)Cl | C19H13Cl2N3O
